US05538984
3-[2-[(1-Phenylmethyl)-4-piperidyl]ethylamino]-1,2-benzisoxazole
The procedure described in Example 21 was followed with 3-chloro-1,2-benzisoxazole (0.682 g, 4.44 mmol), 4-aminoethyl-1-phenylmethyl piperidine (0.970 g, 4.44 mmol), and K2CO3 (0.614 g, 4.44 mmol) in DMSO (30 mL). After purification, the title compound (0.231 g, 15%) was obtained as a pale yellow oil.

reactant | 3-chloro-1,2-benzisoxazole | 4.44 mmol, 0.682 g | ClC1=NOC2=C1C=CC=C2 | C7H4ClNO
reactant | 4-aminoethyl-1-phenylmethyl piperidine | 4.44 mmol, 0.970 g | NCCC1CCN(CC1)CC1=CC=CC=C1 | C14H22N2
reactant | K2CO3 | 4.44 mmol, 0.614 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 3-[2-[(1-Phenylmethyl)-4-piperidyl]ethylamino]-1,2-benzisoxazole | 0.231 g, 15% | C1(=CC=CC=C1)CN1CCC(CC1)CCNC1=NOC2=C1C=CC=C2 | C21H25N3O
